US04795809
Benzyl 5-benzyloxycarbonylamino-3-hydroxy-2-(2-oxo-azetidin-1-yl)valerate
Benzyl 5-benzyloxycarbonylamino-3-oxo-2-(2-oxoazetidin-1-yl)valerate (6.9 mg, 16 μmol) in tetrahydrofuran (1.5 ml) was treated with sodium borohydride (2.2 mg, 58 μmol). After one hour the reaction mixture was analysed by high pressure liquid chromatography using similar conditions to those described in Example 10. The reaction mixture contained the fast moving diastereoisomer of the title compound and slow moving diastereoisomer of the title compound in the ratio 55:45 respectively together with unreacted starting material.

reactant | Benzyl 5-benzyloxycarbonylamino-3-oxo-2-(2-oxoazetidin-1-yl)valerate | 16 μmol, 6.9 mg | C(C1=CC=CC=C1)OC(=O)NCCC(C(C(=O)OCC1=CC=CC=C1)N1C(CC1)=O)=O | C23H24N2O6
reactant | sodium borohydride | 58 μmol, 2.2 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
product | Benzyl 5-benzyloxycarbonylamino-3-hydroxy-2-(2-oxo-azetidin-1-yl)valerate | C(C1=CC=CC=C1)OC(=O)NCCC(C(C(=O)OCC1=CC=CC=C1)N1C(CC1)=O)O | C23H26N2O6
